US07612114B2
6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 2-chloro-1-piperidin-1-ylethanone (11 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (1.7 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C32H36FNO6
reactant | 2-chloro-1-piperidin-1-ylethanone | 11 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
product | 6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 1.7 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C34H43FN2O4
